US06150373
A stirred solution, cooled in ice, of 0.25 ml (0.48 ml) of phosgene (20% in toluene) in 5 ml of tetrahydrofuran was treated dropwise with a solution of 100 mg (0.26 mmol) of 5-(2,6-dichlorophenyl)aminomethyl-4-phenylamino-2-methylthiopyrimidine and 0.1 ml (0.7 mmol) of triethylamine in 10 ml of tetrahydrofuran. The mixture was stirred at room temperature for 3 days. 20 ml of tetrahydrofuran and 20 ml of saturated aqueous ammonium chloride solution were added, the phases were separated and the organic phase was dried over magnesium sulfate, filtered and evaporated to give 110 mg (100%) of 3-(2,6-dichlorophenyl)-7-methylthio-3,4-dihydro-1-phenylpyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid.

reactant | phosgene | 0.25 ml | C(=O)(Cl)Cl | CCl2O
reactant | 5-(2,6-dichlorophenyl)aminomethyl-4-phenylamino-2-methylthiopyrimidine | 0.26 mmol, 100 mg | ClC1=C(C(=CC=C1)Cl)NCC=1C(=NC(=NC1)SC)NC1=CC=CC=C1 | C18H16Cl2N4S
reactant | triethylamine | 0.7 mmol, 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-(2,6-dichlorophenyl)-7-methylthio-3,4-dihydro-1-phenylpyrimido[4,5-d]pyrimidin-2(1H)-one | 110 mg, 100% | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)SC)C1=CC=CC=C1)=O | C19H14Cl2N4OS
